US07423067B2
1-tert-Butoxycarbonyl-2-ethylazetidine-2-carboxylic Acid
The title compound was prepared following the procedure described for Reference Example 15 substituting 1-tert-butoxycarbonylazetidine-3-carboxylic acid with 1-tert-butoxycarbonylazetidine-2-carboxylic acid at Step A. 1H NMR (500 MHz, CD3OD): δ 3.98-3.90 (m, 1H), 3.80-3.62 (m, 1H), 2.36-1.82 (m, 4H), 1.42 (s, 9H), 1.02 (t, 3H).

reactant | 1-tert-butoxycarbonylazetidine-3-carboxylic acid | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)O | C9H15NO4
reactant | 1-tert-butoxycarbonylazetidine-2-carboxylic acid | C(C)(C)(C)OC(=O)N1C(CC1)C(=O)O | C9H15NO4
product | 1-tert-Butoxycarbonyl-2-ethylazetidine-2-carboxylic Acid | C(C)(C)(C)OC(=O)N1C(CC1)(C(=O)O)CC | C11H19NO4
